US05891909
a) 3-Hydroxy-5-methoxybenzaldehyde
Diethyl azodicarboxylate (1.5 mL, 9.53 mmol) was added to a solution of 1.14 g (8.26 mmol) of 3,5-dihydroxybenzaldehyde, 2.39 g (9.12 mmol) of triphenylphosphine, and 380 μL (9.4 mmol) of methanol in anhydrous tetrahydrofuran (20 mL) at 0° C. The reaction mixture was stirred at ambient temperature for 30 min and quenched with 10% aqueous citric acid. The reaction mixture was extracted into diethyl ether, dried (MgSO4), and purified by flash chromatography (dichloromethane/petroleum ether (2:1 then 100:0)) to give the title compound (309 mg, 25%) as a gum. 1H-NMR (300 MHz, CDCl3) δ 9.82 (s, 1 H), 6.98-6.99 (m, 2 H), 6.94-6.96 (m, 1 H), 3.80 (s, 3 H).

reactant | Diethyl azodicarboxylate | 9.53 mmol, 1.5 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3,5-dihydroxybenzaldehyde | 8.26 mmol, 1.14 g | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | triphenylphosphine | 9.12 mmol, 2.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 9.4 mmol, 380 μL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-Hydroxy-5-methoxybenzaldehyde | 309 mg, 25% | OC=1C=C(C=O)C=C(C1)OC | C8H8O3
